US07714134B2
53. 3-Cyano-2-{[1-(3-hydroxy-phenyl)-methanoyl]-amino}-4,7-dihydro-5H-thieno[2,3-c]pyridine-6-carboxylic acid ethyl ester
3-cyano-2-{[1-(3-methoxy-phenyl)-methanoyl]-amino}-4,7-dihydro-5H-thieno[2,3-c]pyridine-6-carboxylic acid ethyl ester (0.16 mmol) is dissolved in 2.4 ml dichloromethane. 1.22 ml BBr3 (1M in dichloromethane) is added at −78° C. and the reaction mixture is stirred for 20 hours at room temperature. After aqueous workup and evaporation of the solvent, the curde product is recristallized from ethanol.

reactant | 3-cyano-2-{[1-(3-methoxy-phenyl)-methanoyl]-amino}-4,7-dihydro-5H-thieno[2,3-c]pyridine-6-carboxylic acid ethyl ester | 0.16 mmol | C(C)OC(=O)N1CC2=C(CC1)C(=C(S2)NC(=O)C2=CC(=CC=C2)OC)C#N | C19H19N3O4S
reactant | BBr3 | 1M, 1.22 ml | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 2.4 ml | ClCCl | CH2Cl2
product | 3-Cyano-2-{[1-(3-hydroxy-phenyl)-methanoyl]-amino}-4,7-dihydro-5H-thieno[2,3-c]pyridine-6-carboxylic acid ethyl ester | C(C)OC(=O)N1CC2=C(CC1)C(=C(S2)NC(=O)C2=CC(=CC=C2)O)C#N | C18H17N3O4S
